US04279918
2-(4-hydroxybenzyl)-1-methylpyrrolidine
Boil 6.2 g of 2-(4-methoxybenzyl)-1-methylpyrrolidine under reflux for 24 hours in a mixture of 30 ml of acetic acid and 30 ml of 48% strength hydrobromic acid. Add a further 20 ml of acetic acid and 20 ml of hydrobromic acid to the refluxed mixture and continue boiling for a further 24 hours. Pour the mixture onto 400 ml of ice water before adjusting its pH to 10 with 6 N sodium hydroxide solution and then extracting it 4 times with, in each case, 50 ml of diethyl ether. Dry the combined ether extracts over sodium sulfate and distil off the solvent. Recrystallize the resulting residue from 25 ml of ethanol to obtain a yield (65% of theory) of the title compound (m.p. 161° to 162°).

reactant | 2-(4-methoxybenzyl)-1-methylpyrrolidine | 6.2 g | COC1=CC=C(CC2N(CCC2)C)C=C1 | C13H19NO
reactant | hydrobromic acid | Br | BrH
reactant | hydrobromic acid | 20 ml | Br | BrH
reactant | sodium hydroxide | 6 N | [OH-].[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-(4-hydroxybenzyl)-1-methylpyrrolidine | OC1=CC=C(CC2N(CCC2)C)C=C1 | C12H17NO
